US07476742B2
In the first flask, N-benzoylalanine (2 g, 10.35 mmol) was dissolved in THF (20 mL) and carbonyl diimidazole (CDI) (1.84 g, 11.39 mmol) was added. The resulting mixture was stirred 1 h at rt and cooled down to −78° C. Into a second flask, ethyl acetate (3.83 g, 43.48 mmol) in THF (40 mL) was cooled down to −78° C. and LDA (2M in THF, 24.3 mL, 48.51 mmol) pre-cooled to −78° C. was added. The resulting solution was stirred 30 minutes at −78° C. and the lithium enolate generated was cannulated into the first flask. The resulting white slurry was stirred 30 minutes at −78° C. and warmed up to −10° C. The reaction was quenched with a saturated aqueous solution of NH4Cl. Phases were separated and the organics were dried over MgSO4 and solvents removed under reduced pressure. The crude product was carried on to the next step without purification. Gave ethyl 4-(benzoylamino)-3-oxopentanoate (2.6 g, 95.5% yield) as a white solid. ES-MS m/z 263.4 ((MH)+); HPLC RT (min) 1.53; 1H NMR (Acetone-d6) δ 8.13 (s br, 1H), 7.93-7.91 (m, 2H), 7.58-7.43 (m, 3H), 4.72 (m, 1H), 4.19-4.01 (q, 2H), 3.67 (s, 2H), 1.47 (d, 3H), 1.15 (t, 3H).

reactant | N-benzoylalanine | 10.35 mmol, 2 g | C(C1=CC=CC=C1)(=O)N[C@@H](C)C(=O)O | C10H11NO3
reactant | carbonyl diimidazole | 11.39 mmol, 1.84 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethyl acetate | 43.48 mmol, 3.83 g | C(C)(=O)OCC | C4H8O2
reactant | LDA | 48.51 mmol, 2M, 24.3 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 4-(benzoylamino)-3-oxopentanoate | 2.6 g, 95.5% yield | C(C1=CC=CC=C1)(=O)NC(C(CC(=O)OCC)=O)C | C14H17NO4
